US05272259
If the nitro group of the 4-nitro-4'-acetylaminostilbene-2-sulphonic acid obtained according to a) is reduced in aqueous ethanol with sodium sulphide or analogously to the procedure in DOS (German Patent Specification) 3,805,513, Example 3, 4-amino-4'-acetylaminostilbene-2-sulphonic acid is obtained.

reactant | 4-nitro-4'-acetylaminostilbene-2-sulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC1=CC=C(C=C1)NC(C)=O)S(=O)(=O)O | C16H14N2O6S
reactant | sodium sulphide | [S-2].[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-4'-acetylaminostilbene-2-sulphonic acid | NC=1C=C(C(=CC1)C=CC1=CC=C(C=C1)NC(C)=O)S(=O)(=O)O | C16H16N2O4S
